Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath and vaginal bleeding
 
Major Surgical or Invasive Procedure:
Blood transfusion (2 units)

 
History of Present Illness:
___ G2P2 w/ h/o menorrhagia c/o SOB and fatigue. States
that she has a long h/o of anemia secondary to her menorrhagia
but noticed worsening sxs over the past month. Went to work
yesterday and noticed increased fatigue and came to the ___ to
get f/u on her CBC. Was noted to have a Hct of 20.5. 

Pt had IUD placed in ___ for bleeding that was replaced
in ___ for expulsion in the lower uterine segment.
Since ___, states her bleeding profile has not improved and
in addition to usual menses of ___ days, has spotting daily.
 
Past Medical History:
GYN Hx: fibroids, denies abnormal Pap, STI, gyn surgery
PMH: anemia, hypothyroidism 
PSH: Partial thyroidectomy
FH: Denies h/o PE, smoking, breast and endometrial ca
Meds: Fe supplements, naproxen
Allergy: nkda
Soc Hx: denies ___
 
___ Results:
___ 06:24PM   URINE UCG-NEGATIVE

___ 06:02PM   ___ PTT-26.4 ___

___ 05:56PM   WBC-5.1 RBC-3.44* HGB-5.4* HCT-20.6* MCV-60* 
MCH-15.7* MCHC-26.2* RDW-21.1* RDWSD-44.3 PLT COUNT-276

___ 09:55AM   WBC-4.7 RBC-3.37* HGB-5.3* HCT-20.5* MCV-61* 
MCH-15.7* MCHC-25.9* RDW-21.4* RDWSD-45.4 PLT COUNT-267

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service for 
management of her symptomatic anemia and vaginal bleeding.

Her hospital course was uncomplicated. Her course by problem is 
as follows:

*) Symptomatic Anemia

Ms. ___ received 2 units of packed RBCs. Her transfusion was 
uncomplicated and her hematocrit rose from 20.6 to 24.7. Her 
symptoms resolved. 

*) Heavy vaginal bleeding

At presentation, Ms. ___ IUD was in place, but in the 
process of expulsion and at the level of the cervice. It was 
subsequently removed with no complications. Her bleeding was 
minimal in triage and improved over her hospital course. She was 
treated with an OCP taper and discharged with appropriate 
medication to finish the taper course. 

She was discharged home in stable condition with outpatient 
follow-up scheduled.

 
Medications on Admission:
___ IUD
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*1 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [Feosol] 325 mg (65 mg iron) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*1 
3.  Norethindrone-Estradiol 2 TAB PO DAILY Duration: 1 Dose 
Take this on ___ (day #2 of OCP taper)  
This is dose # 2 of 3 tapered doses
RX *norethindrone-ethin estradiol [Nortrel ___ (21)] 1 mg-35 
mcg 2 tablet(s) by mouth once Disp #*2 Tablet Refills:*0 
4.  Norethindrone-Estradiol 1 TAB PO DAILY Duration: 7 Days 
start ___ (day #3 of OCP taper)  
This is the maintenance dose to follow the last tapered dose
RX *norethindrone-ethin estradiol [Nortrel ___ (21)] 1 mg-35 
mcg 1 tablet(s) by mouth once daily Disp #*7 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic anemia secondary to heavy vaginal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were recently admitted to the gynecology service for 
management of your vaginal bleeding and symptoms related to 
anemia. You received a blood transfusion with improvement in 
your red blood cell levels. The team feels you have progressed 
well and are ready for discharge. Please follow the instructions 
below.

1. Continue the birth control pill taper as prescribed
- ___: you received 3 tablets in the hospital
- ___: take 2 tablets
- ___: take 1 tablet daily
- You may notice a withdrawl bleed a few days after you complete 
the birth control pill taper
- Please use a backup method of contraception (ex. condoms) 
until your follow-up outpatient appointment. Your ___ IUD was 
removed and the birth control pill taper will not provide 
immediate protection against unintended pregnancy.

2. Please take the iron supplementation as prescribed. This will 
help your red blood cell levels to return to normal. 

3. Please contact your primary OBGYN if you experience worsening 
anemia symptoms (chest pain, shortness of breath, weakness, 
chest palpitations, dizziness, lightheadedness), heavy vaginal 
bleeding, or any other concerning symptoms.

 
Followup Instructions:
___